US07507829B2
A 100 ml flask was charged with toluene (50.0 ml). Pantoprazole (5.0 g, 12.8 mmol) and 47% aqueous NaOH (1.2 g) were added to the stirred solvent at room temperature. The mixture was stirred until dissolution and then overnight until precipitation. The solid was filtered giving pantoprazole sodium. The sample was dried at 45° C. under 10 mm Hg vacuum overnight, giving 4.21 g of amorphous pantoprazole sodium.

reactant | Pantoprazole | 12.8 mmol, 5.0 g | COC=1C=CN=C(C1OC)C[S+](C=2NC=3C=CC(=CC3N2)OC(F)F)[O-] | C16H15F2N3O4S
reactant | NaOH | 1.2 g | [OH-].[Na+]
solvent | toluene | 50.0 ml | C1(=CC=CC=C1)C | C7H8
product | pantoprazole sodium | COC=1C=CN=C(C1OC)C[S+](C=2[N-]C=3C=CC(=CC3N2)OC(F)F)[O-].[Na+] | InChI=1S/C16H14F2N3O4S.Na/c1-23-13-5-6-19-12(14(13)24-2)8-26(22)16-20-10-4-3-9(25-15(17)18)7-11(10)21-16;/h3-7,15H,8H2,1-2H3;/q-1;+1
